US05635527
In the same manner as in Example 15 (3), 5-(benzyloxycarbonylamidino)-2-benzofurancarboxylic acid (690 mg, 2.04 mmol) and t-butyl trans -[4-aminocyclohexyl-N-(t-butoxycarbonyl)amino]acetate (670 mg, 2.04 mmol) were condensed and purified by silica gel column chromatography (n-hexane/ethyl acetate=2/3) to give 493 mg of t-butyl trans-[4-[[5-(benzyloxycarbonylamidino)-2-benzofuranyl]carbonylamino]cyclohexyl-N-(t-butoxycarbonyl)amino]acetate as a colorless solid (37%).

reactant | 5-(benzyloxycarbonylamidino)-2-benzofurancarboxylic acid | 2.04 mmol, 690 mg | C(C1=CC=CC=C1)OC(=O)NC(=N)C=1C=CC2=C(C=C(O2)C(=O)O)C1 | C18H14N2O5
reactant | t-butyl trans -[4-aminocyclohexyl-N-(t-butoxycarbonyl)amino]acetate | 2.04 mmol, 670 mg | N[C@@H]1CC[C@H](CC1)N(C(=O)OC(C)(C)C)CC(=O)OC(C)(C)C | C17H32N2O4
product | t-butyl trans-[4-[[5-(benzyloxycarbonylamidino)-2-benzofuranyl]carbonylamino]cyclohexyl-N-(t-butoxycarbonyl)amino]acetate | 493 mg, 37% | C(C1=CC=CC=C1)OC(=O)NC(=N)C=1C=CC2=C(C=C(O2)C(=O)N[C@@H]2CC[C@H](CC2)N(C(=O)OC(C)(C)C)CC(=O)OC(C)(C)C)C1 | C35H44N4O8
